US06229011B1
A solution of 2-chloro-4-[(3-hydroxybenzylamino)sulfonyl]benzoic acid (50 mg; 0.146 mmol), 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester (60 mg; 0.1486 mmol), HBTU (5 mg; 0.15 mmol) and DIPEA (0.102 mL; 0.585 mmol) in dimethylformamide (3 mL) was stirred for 17 hr under argon at room temperature, then was concentrated to dryness under reduced pressure. The residue was partitioned between dichloromethane (25 mL) and 0.5 N HCl (25 mL). The separated aqueous phase was re-extracted with dichloromethane (10 mL), then the organic extacts were washed in turn with water (2×25 mL). The combined dichloromethane layers were dried (Na2SO4) and evaporated to give 90 mg of the crude product as a dark oil. Chromatography of the oil over silica gel (9 g; 4:1 ethyl acetate-hexane) yielded 55 mg of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]sulfonyl]phenyl]carbonyl]-L-phenylalanine methyl ester, as a colorless solid. FAB HRMS: (C31H26Cl3N3O7S) Obs. Mass 690.0639 Calcd. Mass 690.0635 (M+H).

reactant | 2-chloro-4-[(3-hydroxybenzylamino)sulfonyl]benzoic acid | 0.146 mmol, 50 mg | ClC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)NCC1=CC(=CC=C1)O | C14H12ClNO5S
reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester | 0.1486 mmol, 60 mg | COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C17H16Cl2N2O3
reactant | HBTU | 0.15 mmol, 5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.585 mmol, 0.102 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]sulfonyl]phenyl]carbonyl]-L-phenylalanine methyl ester | 55 mg | COC([C@@H](NC(=O)C1=C(C=C(C=C1)S(=O)(=O)NCC1=CC(=CC=C1)O)Cl)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C31H26Cl3N3O7S
